US06337332B1
Step A: Preparation of 4-[3-(8-methoxy-2-methyl-4-oxo-4H-quinazolin-3-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester
Sodium hydride (91 mg, 2.37 mmol) was added to a solution of 8-methoxy-2-methyl-3H-quinazolin-4-one (300 mg, 1.58 mmol) in DMF (30 mL). The reaction mixture was stirred at 80° C. for 0.75 h and cooled to room temperature, then a solution of 4-(3-iodo-propyl)-piperidine-1-carboxylic acid tert-butyl ester (837 mg, 2.37 mmol) in DMF (1 mL) was added. The reaction mixture was heated at 85° C. for 17 h and diluted with EtOAc. The organic solution was washed with water and sat'd aq NaCl, dried and concentrated. Purification on SiO2-gel chromatography (50% EtOAc/hexanes) provided the desired product as a yellow oil. API-MS: 416 (M+1).

reactant | Sodium hydride | 2.37 mmol, 91 mg | [H-].[Na+]
reactant | 8-methoxy-2-methyl-3H-quinazolin-4-one | 1.58 mmol, 300 mg | COC=1C=CC=C2C(NC(=NC12)C)=O | C10H10N2O2
reactant | 4-(3-iodo-propyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.37 mmol, 837 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCI | C13H24INO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[3-(8-methoxy-2-methyl-4-oxo-4H-quinazolin-3-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN1C(=NC2=C(C=CC=C2C1=O)OC)C | C23H33N3O4
